US07109186B2
Compound 32-A: (4-Methyl-piperazin-yl)-acetonitrile
A mixture of 1-methyl piperazine (0.55 mL, 5.0 mmol), potassium carbonate (3.49 g, 25 mmol) and chloroacetonitrile (0.34 mL, 5.6 mmol) in acetonitrile (3 mL) was stirred at room temperature 8 h. The mixture was diluted with diethyl ether and filtered and concentrated to yield the title compound as yellow crystals (536.6 mg, 77% yield). 1H NMR (500 MHz, CDCl3) δ: 3.50 (s, 2H), 2.66 (t, 4H, J=4.58), 2.52 (bs, 4H), 2.33 (s, 3H).

reactant | 1-methyl piperazine | 5.0 mmol, 0.55 mL | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 25 mmol, 3.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 5.6 mmol, 0.34 mL | ClCC#N | C2H2ClN
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | (4-Methyl-piperazin-yl)-acetonitrile | 536.6 mg, 77% yield | CN1CCN(CC1)CC#N | C7H13N3
